US09382265B2
Preparation of 2-((2-chloroethyl)thio)-N-(((3S,3aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl) acetamide (compound 15)
Using compound 2-((2-chloroethyl)thio) acetic acid (58 mg, 0.377 mmol), compound (3S,3aS)-3-aminomethyl-7-(3-oxomorpholin-4-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one (the product of step (e) in Example 1) (80 mg, 0.251 mmol), TEA (76.2 mg, 0.753 mmol), and HATU (171 mg, 0.452 mmol) as starting materials, preparation following the method as described in Example 11 (g) afforded white solid 70 mg, yield 61.3%.

reactant | 2-((2-chloroethyl)thio) acetic acid | 0.377 mmol, 58 mg | ClCCSCC(=O)O | C4H7ClO2S
reactant | (3S,3aS)-3-aminomethyl-7-(3-oxomorpholin-4-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(COCC3)=O)=O | C15H17N3O5
reactant | HATU | 0.452 mmol, 171 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 2-((2-chloroethyl)thio)-N-(((3S,3aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl) acetamide | 70 mg, yield 61.3% | ClCCSCC(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(COCC3)=O)=O | C19H22ClN3O6S
